US07439237B2
(4g) 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(4-amino-3-chloro-5-methyl-benzyl)-2-(4-cyclopropyl-piperazin-1-yl)-2-oxo-ethyl]-amide
0.1 ml diisopropylethylamine, 64.2 mg (0.20 mmol) TBTU and 27.0 mg (0.20 mmol) HOBt was added to a mixture of 100 mg (0.20 mmol) (R)-3-(4-amino-3-chloro-5-methyl-phenyl)-2-([4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carbonyl]-amino)-propionic acid, 10 ml THF and 1 ml DMF, the mixture was stirred for 15 hours at ambient temperature and then combined with 80 mg (0.60 mmol) 1-cyclopropyl-piperazine. The reaction mixture was stirred for 3 hours at ambient temperature, combined with 20 ml semisaturated sodium hydrogen carbonate solution and extracted twice with 20 ml of ethyl acetate. The combined organic phases were washed once with 20 ml saturated saline solution, dried over sodium sulphate and evaporated down under reduced pressure. The residue was purified by column chromatography through silica gel.

reactant | diisopropylethylamine | 0.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | 0.20 mmol, 64.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.20 mmol, 27.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-3-(4-amino-3-chloro-5-methyl-phenyl)-2-([4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carbonyl]-amino)-propionic acid | 0.20 mmol, 100 mg | NC1=C(C=C(C=C1C)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C25H30ClN5O4
reactant | 1-cyclopropyl-piperazine | 0.60 mmol, 80 mg | C1(CC1)N1CCNCC1 | C7H14N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(4-amino-3-chloro-5-methyl-benzyl)-2-(4-cyclopropyl-piperazin-1-yl)-2-oxo-ethyl]-amide | NC1=C(C=C(C[C@H](C(=O)N2CCN(CC2)C2CC2)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1C)Cl | C32H42ClN7O3
